US04058550
To a mixture of 8.8 g. of 1,4-dihydroxy-2-butene and 2.84 g. of 4-dimethylaminopyridine is added 4.16 g. of 4-(n-hexadecylamino)benzoyl chloride hydrochloride. The heat evolution is moderated with ice and stirring is continued for 4 hours. Chloroform and water are added and the chloroform extract chromatographed to remove any diacylated by-product. Evaporation to crystallization yields the 4-hydroxy-2-buten-1-yl 4-(n-hexadecylamino)benzoate as a white solid.

reactant | 1,4-dihydroxy-2-butene | OCC=CCO | C4H8O2
reactant | 4-(n-hexadecylamino)benzoyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)Cl)C=C1
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 4-hydroxy-2-buten-1-yl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC=CCO)C=C1 | C27H45NO3
